US09056873B2
Step A: 4-Fluorobenzo[b]thiophene
A mixture of 4-fluorobenzo[b]thiophene-2-carboxylic acid (200 mg, 1.019 mmol) and 1,8-diazabicyclo[5.4.0]undec-7-ene (0.457 mL, 3.06 mmol) in DMA (1 mL) was heated at 200° C. for 1 hour. The reaction mixture was allowed to cool and was poured into water (100 mL). The product was extracted with hexane (2×20 mL) and washed with 1N HCl (100 mL) and 1N NaOH (50 mL). The organic layers were combined, dried over Na2SO4 and the solvent was removed in vacuo to give the title compound as a yellow oil, which was used without further purification.

reactant | 4-fluorobenzo[b]thiophene-2-carboxylic acid | 1.019 mmol, 200 mg | FC1=CC=CC=2SC(=CC21)C(=O)O | C9H5FO2S
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 3.06 mmol, 0.457 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | water | 100 mL | O | H2O
solvent | DMA | 1 mL | CC(=O)N(C)C | C4H9NO
product | 4-Fluorobenzo[b]thiophene | FC1=CC=CC=2SC=CC21 | C8H5FS
